US06340749B1
Synthesis of 2-Cyanoethoxy(N,N-diisopropylamino)(3-nitro-1,2,4-triazolyl)phosphine (1)
To a stirred solution of 3-nitro-1,2,4-triazole (9.64 g, 84.50 mmol) and triethylamine (14.0 mL, 10.26 g, 101.4 mmol) in THF (200 mL) was added dropwise chloro-2-cyanoethoxy-N,N-diisopropylaminophosphine (20.0 g, 84.50 mmol) at room temperature. The mixture was stirred overnight at room temperature. The reaction mixture was filtered to remove the resulting salt, and the solvent was removed under reduced pressure to give the crude product as a pale brown oil (24.9 g, 95%). After standing at room temperature, the oil becomes a pale yellow wax-like solid. 1H NMR (CDCl3 δ 8.39 (s, 1H), 4.09 (m, 2H), 3.51 (m, 2H), 2.81 (m, 2H), 1.19 (d, J=6.0 Hz, 6H), 1.07 (d, J=9.0 Hz, 6H). 31P NMR (CDCl3) δ 133.9.

reactant | 3-nitro-1,2,4-triazole | 84.50 mmol, 9.64 g | [N+](=O)([O-])C1=NNC=N1 | C2H2N4O2
reactant | triethylamine | 101.4 mmol, 14.0 mL, 10.26 g | C(C)N(CC)CC | C6H15N
reactant | chloro-2-cyanoethoxy-N,N-diisopropylaminophosphine | 84.50 mmol, 20.0 g | ClP(N(C(C)C)C(C)C)OCCC#N | C9H18ClN2OP
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-Cyanoethoxy(N,N-diisopropylamino)(3-nitro-1,2,4-triazolyl)phosphine | 24.9 g, 95% | C(#N)CCOP(C1=NC(=NN1)[N+](=O)[O-])N(C(C)C)C(C)C | C11H19N6O3P
